US03969393
18.2 g of the chlorinated product of m-tolylphenyl ether containing 13.2 g of 3-phenoxybenzyl chloride was treated with a solution of 9.1 g of triethylamine in 60 ml of benzene in the same manner as described in Example 1. Thus, 17.8 g of colorless, needle-like 3-phenoxybenzyl triethyl ammonium chloride was obtained (hygroscopic, no clear m.p.).

reactant | m-tolylphenyl ether | 13.2 g | C1(=C(C=CC=C1)C=1C=C(C=CC1)OC1=CC(=CC=C1)C1=C(C=CC=C1)C)C | C26H22O
reactant | 3-phenoxybenzyl chloride | O(C1=CC=CC=C1)C=1C=C(CCl)C=CC1 | C13H11ClO
reactant | triethylamine | 9.1 g | C(C)N(CC)CC | C6H15N
solvent | benzene | 60 ml | C1=CC=CC=C1 | C6H6
product | 3-phenoxybenzyl triethyl ammonium chloride | [Cl-].O(C1=CC=CC=C1)C=1C=C(C[N+](CC)(CC)CC)C=CC1 | InChI=1S/C19H26NO.ClH/c1-4-20(5-2,6-3)16-17-11-10-14-19(15-17)21-18-12-8-7-9-13-18;/h7-15H,4-6,16H2,1-3H3;1H/q+1;/p-1
